### ISSUE TITLE
[`SimpleGraph/Paths`] A walk is a path iff its subgraph is acyclic

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#50]
```lean
import Mathlib
namespace SimpleGraph.Walk
variable {V : Type*} {G : SimpleGraph V} {u v : V} {p : G.Walk u v}

theorem IsPath.isSubwalk_mapToSubgraph (hp : p.IsPath) {u' v'}
    {p' : p.toSubgraph.coe.Walk u' v'} (hp' : p'.IsTrail) : p'.IsSubwalk p.mapToSubgraph := by
  sorry

theorem isPath_iff_isAcyclic_toSubgraph : p.IsPath ↔ p.toSubgraph.coe.IsAcyclic := by
  refine ⟨fun hp v' c hc ↦ ?_, fun hp ↦ .mk' ?_⟩
  · have := hp.isSubwalk_mapToSubgraph hc.isTrail
    sorry
  · sorry

theorem IsPath.isTree_toSubgraph (hp : p.IsPath) : p.toSubgraph.coe.IsTree :=
  ⟨p.toSubgraph_connected, isPath_iff_isAcyclic_toSubgraph.mp hp⟩
```
